Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain 
 
Major Surgical or Invasive Procedure:
___ - ventral hernia repair

 
History of Present Illness:
Mr. ___ is a ___ otherwise healthy with a known ventral
hernia presents with a bulge at his known hernia with pain. He
was on his way to work this AM when he developed severe pain at
the site of his hernia. This was followed by severe nausea. He
did vomit on arrival to the ED. He denies any fevers/chills,
chest pain, shortness of breath. Of note, he was supposed to 
have
the hernia fixed as outpt.
 
Past Medical History:
Denies
 
Social History:
___
Family History:
Denies family history of GI disorders or malignancies.

 
Physical Exam:
Admission Physical Exam: 
==========================
98.2 66 175/108 16 100% RA 
GEN: A&Ox3, NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR
PULM: no respiratory distress, unlabored respirations
ABD: soft, non-distended, incarcerated hernia superior to the
umbilicus, no overlying skin changes
PELVIS: deferred
EXT: WWP, no edema
NEURO: A&Ox3, no focal neurologic deficits
DERM: no rashes/lesions/ulcers

Discharge Physical Exam: 
==========================
VS: 97.___
GEN: A&Ox3, NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR
PULM: no respiratory distress, unlabored respirations
ABD: soft, non-distended, repaired hernia superior to the
umbilicus, dressings CDI
EXT: WWP, no edema
NEURO: A&Ox3, no focal neurologic deficits
DERM: no rashes/lesions/ulcers
 
Pertinent Results:
Admission Labs: 
==================
___ 10:00AM BLOOD WBC-10.1* RBC-5.33 Hgb-15.6 Hct-46.6 
MCV-87 MCH-29.3 MCHC-33.5 RDW-13.3 RDWSD-42.1 Plt ___
___ 10:00AM BLOOD Neuts-85.1* Lymphs-8.5* Monos-4.9* 
Eos-0.4* Baso-0.4 Im ___ AbsNeut-8.57* AbsLymp-0.86* 
AbsMono-0.49 AbsEos-0.04 AbsBaso-0.04
___ 10:00AM BLOOD Plt ___
___ 10:00AM BLOOD Glucose-130* UreaN-12 Creat-1.1 Na-141 
K-4.1 Cl-105 HCO3-22 AnGap-14
___ 10:00AM BLOOD ALT-26 AST-20 AlkPhos-78 TotBili-0.4
___ 10:00AM BLOOD Lipase-41
___ 10:00AM BLOOD Albumin-4.6

Discharge Labs: 
================

___ 07:23AM BLOOD WBC-8.0 RBC-4.54* Hgb-13.0* Hct-40.1 
MCV-88 MCH-28.6 MCHC-32.4 RDW-13.2 RDWSD-43.3 Plt ___
___ 07:23AM BLOOD Plt ___
___ 07:23AM BLOOD Glucose-109* UreaN-9 Creat-0.9 Na-141 
K-4.0 Cl-106 HCO3-23 AnGap-12
___ 07:23AM BLOOD Calcium-8.4 Phos-2.7 Mg-1.8
 
Brief Hospital Course:
___ is a ___ year old male with a history of a ventral 
hernia who presented with an incarcerated ventral hernia 
containing small bowel and fat. He underwent an uncomplicated 
repair of the hernia with mesh. At the time of discharge the 
patient was eager to leave, his pain was well controlled, was 
ambulating, eating, drinking, producing urine and *** passing 
flatus appropriately.

Active Issues: 
==============
# Incarcerated ventral hernia repair:
Patient presented with an incarcerated hernia, additionally seen 
on Abdominal CT. Patient underwent uncomplicated Ventral 
Incarcerated Hernia Repair with Mesh. At the time of discharge 
the patient was eager to leave, his pain was well controlled, 
was ambulating, eating, drinking, producing urine and *** 
passing flatus appropriately.

Chronic Issues: 
=================
# None

Transitional Issues: 
=====================
# Follow up with Dr. ___ on ___ 
# Take your medications as directed 

 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Incarcerated ventral hernia
Repair of Ventral Incarcerated Hernia Repair with Mesh

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 
 
You were admitted to ___ and 
underwent a repair of a hernia on your abdomen that had some 
bowels and tissue caught within it. You are recovering well and 
are now ready for discharge. Please follow the instructions 
below to continue your recovery:  
 
 MEDICATIONS:  
 Take all the medicines you were on before the operation just as 
you did before, unless you have been told differently.  

 If you have any questions about what medicine to take or not to 
take, please call your surgeon.  

 Warm regards,  
 Your ___ Surgery Team 
 
Followup Instructions:
___